US06140100
To a 100 mL 3-necked flask equipped with a magnetic stirrer and a nitrogen inlet were added 0.90 g of ethyl N-((S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)-4-(ethoxycarbonyl)butanoyl)-L-phenylalaninate, 3 mL of EtOH and 10 mL of 0.2N aqueous NaOH. The solution was stirred at RT under nitrogen for 2 h and was acidified to pH 3.0 by addition of 1N HCl. A white precipitate resulted which was separated by centrifugation. Analysis of this material by analytical HPLC (C18, 70:30:0.10 H2O:MeCN:TFA) indicated a major component at K'=1.93 (90%) and a minor component at k'=2.41. The crude product was purified by semi-preparative reverse phase HPLC (C18, 75:25:0.1 H2O:MeCN:TFA). Fractions containing pure product (k'=1.93 by analytical HPLC using above conditions) were combined and concentrated in vacuo to dryness. The residue was dissolved in 15 mL of 0.1N aqueous NaOH and the solution was adjusted to pH 3.0 by addition of 1N HCl. The resulting precipitate was collected by centrifugation, washed with four cycles of aqueous suspension-centrifugation-decantation, and lyophilized to afford 0.035 g (40%) of N-((S)-4-carboxy-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)butanoyl)-L-phenylalanine as a white powder, m.p. 180° C.

reactant | ethyl N-((S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)-4-(ethoxycarbonyl)butanoyl)-L-phenylalaninate | 0.90 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC=3C=C1CN(C(C1=CC3)=O)[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)OCC)CCC(=O)OCC | C40H41N5O7
reactant | NaOH | 0.2N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | N-((S)-4-carboxy-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo(f)quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)butanoyl)-L-phenylalanine | 0.035 g, 40% | C(=O)(O)CC[C@@H](C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)N1C(C2=CC=C(C=C2C1)NCC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1)=O | C36H33N5O7
